Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Humira / morphine / Remicade / famotidine / ferrous sulfate / 
methylprednisolone
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with hx of complex Crohn's disease c/b ileal stricture
requiring repeated balloon dilations, s/p proctocolectomy,
multiple ileostomies (currently LLQ) transferred from ___ given concern for recurrent stricture. History
is obtained from pt overnight, as he is not accompanied by
detailed prior records.

Pt initially presented to ___ in mid ___
with LLQ pain. Per transfer notes in OMR, GI was consulted at
___ apparently there were no inflammatory changes
seen on CT at that time, so steroids were not indicated/advised;
in addition, pt described adverse psychiatric effects from
steroids in the past. He underwent ileoscopy on ___, which
revealed "scattered erosion otherwise normal mucosa, @15cm
limited views of stricture with impacted vegetable material,
lavaged/cleared three time with rapic passage flatus/liquid and
stool after removal of vegetable material, unable to traverse
stricture with pediatric colonoscope." Repeat ileoscopy was
performed on ___, during which "diagnostic endoscope 
advanced
to 40cm with pinhole opening noted.  TTS balloon dilation to 6
then 7mm diameter with passage of faces.  Post dilation, opening
still small but with passage of stool." Apparently surgical team
at ___ deferred management to ___. 

Pt reports that he was hospitalized at ___ for one week before
requesting discharge for a long awaited court date that would
have been challenging to reschedule. He was discharged on 
___
and returned to the ___ on ___ after attending to his
legal affairs. He was transferred to ___ for consideration of
stricturoplasty.

In the ___ ___:
VS 97.1, 70, 90/62-->90/52, 96% RA
Exam notable for:
Appearance: uncomfortable, in acute distress
Cardiac: RRR, S1, S2, no murmurs 
Lungs: clear equal bilaterally, no adventitious sounds
Abdomen: vertical midline and RLQ surgical scars, ostomy site
clean in LLQ, non-distended, deferred abdominal palpation do to
acute pain
Neuro: CN II-XII intact, speech fluent, ___ strength upper and
lower

Labs notable for:
WBC 6.0, Hb 13.4, Plt 192
Lactate 0.5
BUN 6, Cr 1.0
UA pending

Imaging:
CT abd/pelvis

Consults: 
GI - recommend CT abd/pelvis, based on results will review with
CRS. No repeat dilation given recent dilation. 

Received:
Dilaudid 0.5 mg IV x4
IVF
ZOfran

On arrival to the floor, pt reports continued intermittent 
severe
pain, reaching ___. He describes diffuse abdominal pain, most
pronounced in LLQ, stabbing, ___, with associated decreased
ostomy output x2 weeks, nonbloody. Describes associated nausea
with nonbloody emesis with any food more solid than mashed 
potato
consistency. Limited PO intake x 2 weeks. Denies F/C, chest 
pain,
dysuria, hematuria. Pt has previously received care at ___ for
Crohn's disease, but since insurance change has been told that
___ is no longer in network. He describes a total of 28 
abdominal
surgeries including 3 ileostomies; he has tracked CT scans, and
reports that CT at ___ on ___ was officially his 100th CT.
He reports that stricture was diagnosed in ___, that he has had
a total of ___ balloon dilations, with increasing frequency; he
has had 2 that he recalls in ___. He reports that his last
Crohn's flare was 11 months prior, and was treated with 
steroids,
from which he developed undesirable behavior changes. With
respect to his Crohn's disease, he has trialed multiple
steroid-sparing agents including Humira and remicaide, and
apparently developed side effects with both of these 
medications,
although details at the time of admission are not clear.

 
Past Medical History:
Crohn's disease as per HPI
 
Social History:
___
Family History:
Family History, per prior notes: 
2 brothers and 2 sisters, no other IBD or known rheumatologic
disease
Mother diagnosed with bipolar disorder, lives in ___, has 
not
seen her in ___ years
Not in contact with his father

 
Physical ___:
VS: 98.7PO 108 / 71 70 18 98 RA 
GEN: young male, alert and interactive, comfortable, grimacing
after movement and abdominal palpation, initially in NAD
HEENT: PERRL, anicteric, conjunctiva pink, tongue is fluorescent
blue after blue gum, oropharynx without
lesion or exudate, moist mucus membranes, ears without lesions 
or
apparent trauma
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or
gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
GI: multiple well healed surgical scars, well healed prior
ileostomy sites, LLQ ostomy in place, bag is empty. Abdomen is
soft, diffusely tender most pronounced at LLQ, with rebound
tenderness, +BS, no hepatomegaly appreciated
EXTREMITIES: no clubbing, cyanosis, or edema
GU: no foley
SKIN: + tattoos, no rashes, petechia, lesions, or echymoses; 
warm
to
palpation
NEURO: Alert and interactive, cranial nerves II-XII grossly
intact, strength and sensation grossly intact
PSYCH: normal mood and affect

 
Pertinent Results:
___ 09:20AM BLOOD WBC: 6.0 RBC: 5.40 Hgb: 13.4* Hct: 45.0
MCV: 83 MCH: 24.8* MCHC: 29.8* RDW: 15.9* RDWSD: 47.2* Plt Ct:
192 
___ 09:20AM BLOOD Neuts: 54.7 Lymphs: ___ Monos: 14.4* 
Eos:
2.8 Baso: 0.5 Im ___: 0.3 AbsNeut: 3.26 AbsLymp: 1.63 AbsMono:
0.86* AbsEos: 0.17 AbsBaso: 0.03 
___ 09:20AM BLOOD Glucose: 78 UreaN: 6 Creat: 1.0 Na: 141 
K:
4.1 Cl: 106 HCO3: 27 AnGap: 8* 
___ 09:20AM BLOOD CRP: 38.6* 
___ 09:26AM BLOOD Lactate: 0.5 
___ 07:41PM URINE Color: Straw Appear: Clear Sp ___: 
1.044*

___ 07:41PM URINE Blood: NEG Nitrite: NEG Protein: NEG
Glucose: NEG Ketone: 40* Bilirub: NEG Urobiln: NEG pH: 7.0 
Leuks:
NEG  
   URINE CULTURE (Pending): 

Labs from ___- ___ - 2:50

Glucose - 81
BUN - 7
Cre - 1.120
GFR (non Afr. Am.) - >90
Na - 138
K - 3.5
Cl - 31
CO2 - 31
Total Protein - 3
Albumin - 3.3
Calcium - 8.6
Bili total 1.3
direct bili - 
Alk Phos - 85
AST - 19
ALT - 31
Lipase - 63

WBC - 7.5
RBC - 5.96
Hgb - 14.6
Hct - 47.0
Platelets - 222

___ - 11.7
INR - 1.2

IMAGING - images and reports reviewed:
CT abd/pelvis ___:
FINAL REPORT 
EXAMINATION: CT ABD AND PELVIS WITH CONTRAST  
 INDICATION: History: ___ with hx of Crohn's with abdominal pain
and transferred for eval for strictuloplasty NO_PO contrast//
?Small Bowel 
 obstruction  
 COMPARISON: CT of the abdomen pelvis from ___  
 FINDINGS:   
 LOWER CHEST: Visualized lung fields are within normal limits.
There is no evidence of pleural or pericardial effusion.  
 ABDOMEN:  
 HEPATOBILIARY: The liver demonstrates homogenous attenuation
throughout. There is no evidence of focal lesions. There is no
evidence of intrahepatic or 
 extrahepatic biliary dilatation. The gallbladder is within
normal limits.  
 PANCREAS: The pancreas has normal attenuation throughout,
without evidence of focal lesions or pancreatic ductal
dilatation. There is no peripancreatic 
 stranding.  
 SPLEEN: The spleen shows normal size and attenuation 
throughout,
without evidence of focal lesions. 
 ADRENALS: The right and left adrenal glands are normal in size
and shape.  
 URINARY: The kidneys are of normal and symmetric size with
normal nephrogram.  There is no evidence of focal renal lesions
or hydronephrosis. There is no perinephric abnormality. 
 GASTROINTESTINAL: Patient is status post proctocolectomy and
left lower quadrant diverting ileostomy. The stomach is
unremarkable. There is a region 
 of distal ileum with increased mucosal enhancement and
subcutaneous edema and surrounding stranding consistent with
ileitis (series 2, image 47). No 
 evidence of perforation, abscess or stricture.  
 PELVIS: The urinary bladder and distal ureters are 
unremarkable.
There is no free fluid in the pelvis. 
 REPRODUCTIVE ORGANS: The visualized reproductive organs are
unremarkable.  
 LYMPH NODES: There are multiple enlarged mesenteric lymph nodes
measuring up to 11 mm. 
 VASCULAR: There is no abdominal aortic aneurysm.  
 BONES: There is no evidence of worrisome osseous lesions or
acute fracture. 
 SOFT TISSUES: The abdominal and pelvic wall is within normal
limits. 
 IMPRESSION: 
 1. New inflammatory changes involving a 10 cm segment of the
distal ileum. 
 2. No evidence of small bowel obstruction. 

Discharge labs:

___ 06:44AM BLOOD WBC-5.6 RBC-5.56 Hgb-13.7 Hct-43.9 
MCV-79* MCH-24.6* MCHC-31.2* RDW-15.0 RDWSD-43.5 Plt ___
___ 06:44AM BLOOD Glucose-82 UreaN-4* Creat-0.9 Na-140 
K-4.3 Cl-102 HCO3-29 AnGap-9*

PREALBUMIN                    13  L               ___ mg/dL

 
Brief Hospital Course:
___ with hx of complex Crohn's disease c/b ileal stricture 
requiring repeated balloon dilations, s/p proctocolectomy, 
multiple ileostomies (currently LLQ) transferred from ___ 
___ given concern for recurrent
stricture, and evaluate graded by gastroenterology and 
colorectal surgery, with discharge on budesonide as a trial to 
try to treat possible acute inflammation contributing to the 
stricture.

# Crohn's disease:
# Ileal stricture:
# LLQ pain: 

He was hospitalized with recent hospitalization in outside 
hospital with abdominal pain and dilation of esophageal 
stricture.  He was transferred for evaluation by colorectal 
surgery.  They saw him and recommended medical management given 
the high risk nature of surgery in this young man with multiple 
prior surgeries and multiple prior small bowel resections 
already.  In addition, on hospitalization here he had a CRP of 
38.6 and some evidence of stranding and inflammation in the area 
of the stricture, that was either related to the dilation or 
could also be related to a Crohn's flare.  He was seen by 
colorectal surgery as well as gastroenterology.  The 
recommendation was to try treatment with budesonide, given his 
inability to take systemic steroids.  He will follow-up with 
gastroenterology and colorectal surgery to see if his symptoms 
improve with this.  If necessary however he will undergo surgery 
although he will require better nutritional status, given low 
pre-albumin and concern for malnutrition.  He was continued on 
his home OxyContin and oxycodone for pain management and was 
given no narcotic prescriptions at discharge.  He would likely 
benefit from trauma informed care on his next hospitalization as 
he has significant difficulty with stress and anxiety during 
this short hospitalization.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxyCODONE SR (OxyCONTIN) 20 mg PO Q12H 
2. OxyCODONE (Immediate Release) 10 mg PO TID W/MEALS 

 
Discharge Medications:
1.  Budesonide 9 mg PO DAILY 
RX *budesonide 9 mg 1 capsule(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  OxyCODONE (Immediate Release) 10 mg PO TID W/MEALS  
3.  OxyCODONE SR (OxyCONTIN) 20 mg PO Q12H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Crohn's disease 
Bowel stricture 
Moderate malnutrition 
Abdominal pain 

 
Discharge Condition:
Tolerating soft diet, ambulating independently.

 
Discharge Instructions:
Why were you hospitalized?
You were hospitalized after recent hospitalization at ___ 
___ for continued abdominal pain.  This is related to a 
stricture from your Crohn's disease.

What did we do for you
You were seen by our gastroenterologist as well as her surgeons.
We started you back on an oral diet and started a steroid 
medication that treats only the bowel.

What should you do when you go home
You should eat a low fiber low residue diet.
You should take the budesonide as prescribed
You should follow-up with the gastroenterologist and colorectal 
surgeons.
 
Followup Instructions:
___